US04628057
(3RS)-2-[(n-Butylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 6, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (3.24 g), KOH (96%, 1.75 g), 50% ethanol (65 ml), carbon disulfide (0.91 ml) and n-butyl iodide (3.3 g) are reacted and treated. The product is crystallized from chloroform to give the title compound (1.9 g) as pale yellow crystals, m.p. 163°-164° C.

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 3.24 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | KOH | 1.75 g | [OH-].[K+]
reactant | ethanol | 65 ml | C(C)O | C2H6O
reactant | n-butyl iodide | 3.3 g | C(CCC)I | C4H9I
reactant | carbon disulfide | 0.91 ml | C(=S)=S | CS2
product | (3RS)-2-[(n-Butylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.9 g | C(CCC)SC(=S)N1CC=2NC3=CC=CC=C3C2CC1C(=O)O | C17H20N2O2S2
